US09403801B2
Step 9) tert-butyl 4-(methylamino)-2-azaspiro[4.4]nonane-2-carboxylate
To a solution of CH3NH2 (33% [w/w] in EtOH, 11.70 g, 124.3 mmol) was added tert-butyl 4-oxo-2-azaspiro[4.4]nonane-2-carboxylate (5.92 g, 24.7 mmol). After addition, the reaction mixture was stirred at rt overnight, and then NaBH3CN (4.69 g, 74.6 mmol) was added portionwise. The resulting mixture was stirred at rt for 2 h and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc, 100%) to give the product as colorless oil (6.28 g, 100%).

reactant | CH3NH2 | 124.3 mmol, 11.70 g | CN | CH5N
reactant | tert-butyl 4-oxo-2-azaspiro[4.4]nonane-2-carboxylate | 24.7 mmol, 5.92 g | O=C1CN(CC12CCCC2)C(=O)OC(C)(C)C | C13H21NO3
reactant | NaBH3CN | 74.6 mmol, 4.69 g | [BH3-]C#N.[Na+]
product | tert-butyl 4-(methylamino)-2-azaspiro[4.4]nonane-2-carboxylate | 6.28 g, 100% | CNC1CN(CC12CCCC2)C(=O)OC(C)(C)C | C14H26N2O2
